US07683064B2
Preparation of 6-tert-Butyl-2H-isoquinolin-1-one:
6-tert-Butyl-3,4-dihydro-2H-isoquinolin-1-one (1.709 g, 8.4 mmol) and 2,3-5,6-dicyano-p-benzoquinone (DDQ) (3.85 g, 2 eq) were taken up in dioxane (130 mL) and the resulting mixture was heated to 100° C. for four days. After allowing to cool to room temperature, most of the dioxane was removed under reduced pressure at 55° C. Ethyl acetate (300 mL) and 2N NaOH (100 mL) were added to the residue and the mixture was partitioned and the layers were sepearated. Subsequently washed again with 2N NaOH (3×100 mL), water (1×125 mL) and finally with brine (1×125 mL). The ethyl acetate layer was dried over magnesium sulfate, filtered and concentrated to give the crude product (1.783 G). Purification on silica gel eluting with 30% ethyl acetate in hexanes afforded the title compound (779 mg) as a light tan powder. MS (ESI) 202.0 (M+H)+.

reactant | 6-tert-Butyl-3,4-dihydro-2H-isoquinolin-1-one | 8.4 mmol, 1.709 g | C(C)(C)(C)C=1C=C2CCNC(C2=CC1)=O | C13H17NO
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | 6-tert-Butyl-2H-isoquinolin-1-one | 779 mg | C(C)(C)(C)C=1C=C2C=CNC(C2=CC1)=O | C13H15NO
